US05128355
A solution of 0.54 g of 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-(1-bromobutyl)-4-chloroimidazole-5-carboxaldehyde and 0.33 mL of 1,8-diazabicyclo[4.5.0]undec-7-ene in 10 mL of tetrahydrofuran was stirred at 25° C. for 18 hours. The reaction mixture was diluted with diethyl ether, washed with dilute hydrochloric acid, water, and brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Column chromatography (elution:ethyl acetate/benzene) furnished 0.26 g of 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-(2-transbutenyl)-4-chloroimidazole-5-carboxaldehyde. NMR (200 MHz, CDCl3) δ 9.75 (s, 1H); 7.82 (d, 1H); 7.51 (t, 1H); 7.40 (t, 1H); 7.33-7.07 (m, 6H); 6.27 (d, 1H); 5.62 (s, 2H); 3.62 (s, 3H); 2.30 (quint., 2H); 1.09 (t, 3H).

reactant | 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-(1-bromobutyl)-4-chloroimidazole-5-carboxaldehyde | 0.54 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C=O)Cl)C(CCC)Br | C23H22BrClN2O3
reactant | 1,8-diazabicyclo[4.5.0]undec-7-ene | 0.33 mL | N12CCCCC2C=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-(2-transbutenyl)-4-chloroimidazole-5-carboxaldehyde | 0.26 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C=O)Cl)\C=C\CC | C23H21ClN2O3
